US08871756B2
To a solution of 1,4-dibromo-2-fluoro-butane (4.0 g, 17.09 mmol) in N,N-dimethylformamide (60 mL) was added potassium 2,3-dihydro-1H-isoindole-1,3-dione (9.5 g, 51.27 mmol). The reaction mixture was stirred at 100° C. overnight. The mixture was cooled to room temperature, diluted with ethyl acetate (60 mL), washed with water (60 mL), brine (60 mL), dried over sodium sulfate, and concentrated in vacuo to afford 4.5 g of 2,2′-(2-fluorobutane-1,4-diyl)bis(1H-isoindole-1,3(2H)-dione) as a white solid.

reactant | 1,4-dibromo-2-fluoro-butane | 17.09 mmol, 4.0 g | BrCC(CCBr)F | C4H7Br2F
reactant | potassium 2,3-dihydro-1H-isoindole-1,3-dione | 51.27 mmol, 9.5 g | C1(NC(C2=CC=CC=C12)=O)=O.[K]
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | 2,2′-(2-fluorobutane-1,4-diyl)bis(1H-isoindole-1,3(2H)-dione) | 4.5 g | FC(CN1C(C2=CC=CC=C2C1=O)=O)CCN1C(C2=CC=CC=C2C1=O)=O | C20H15FN2O4
